US04945163
9-Acetyl-4-bromomethyl-β-carboline-3-carboxylic Acid Ethyl Ester (G. Neef et al., Het. 20(7) : 1295 [1983])
10 g (33.8 mmol) of 9-acetyl-4-methyl-β-carboline-3carboxylic acid ethyl ester is combined in 500 ml of carbon tetrachloride with 12 g (67.4 mmol) of N-bromosuccinimide and one spatula tip of azobisisobutyronitril and heated to reflux for 1.5 hours while simultaneously exposing the reaction mixture to light. After cooling, the mixture is suctioned off from the succinimide, concentrated, and the residue is extracted by stirring with hot water and suctioned off. Yield: 10.64 g (84%) of 9-acetyl-4-bromomethyl-β-carboline-β-carboxylic acid ethyl ester, mp 188°-189° C.

reactant | 9-acetyl-4-methyl-β-carboline-3carboxylic acid ethyl ester | 33.8 mmol, 10 g | C(C)OC(=O)C=1N=CC=2N(C3=CC=CC=C3C2C1C)C(C)=O | C17H16N2O3
reactant | N-bromosuccinimide | 67.4 mmol, 12 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | azobisisobutyronitril | N(=NC(C#N)(C)C)C(C#N)(C)C | C8H12N4
reactant | succinimide | C1(CCC(N1)=O)=O | C4H5NO2
solvent | carbon tetrachloride | 500 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 9-Acetyl-4-bromomethyl-β-carboline-3-carboxylic Acid Ethyl Ester | C(C)OC(=O)C=1N=CC=2N(C3=CC=CC=C3C2C1CBr)C(C)=O | C17H15BrN2O3
